US06342608B1
Preparation of 1-(4-chlorophenyl)-2-(4-pyrimidyl)ethanone
Lithium bis(trimethylsilyl)amide 1.0 M in THF (4.25 L, 4.25 mol) was cooled to −70° C. with stirring under nitrogen. 4-methylpyrimidine (250 g, 2.66 mol) was added followed by Methyl 4-chlorobenzoate (453.2 g, 2.66 mol). The cooling bath was removed and the mixture was allowed to warm to room temperature and stir for 16 h. Water (3 L) and ethyl acetate (3 L) were added followed by acetic acid (200 mL). The layers were separated and the organic layer was washed with brine and dried over magnesium sulfate. The mixture was then concentrated to 800 mL and hexanes (250 mL) were added. The product was filtered, washed with hexanes, and air dried to provide a yellow solid. (388.1 g, 64%): mp 110.4-110.5° C. 1H NMR (acetone-d6/300 MHz) 14.9 (bs, 1H), 8.8 (s, 1H), 8.4 (m, 1H), 7.7 (d, 2H, J=8.7 Hz), 7.3 (d, 2H, J=8.7 Hz), 6.9 (m, 1H), 5.9 (s, 1H).

reactant | Lithium bis(trimethylsilyl)amide | 1.0 M | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | THF | 4.25 mol, 4.25 L | C1CCOC1 | C4H8O
reactant | 4-methylpyrimidine | 2.66 mol, 250 g | CC1=NC=NC=C1 | C5H6N2
reactant | Methyl 4-chlorobenzoate | 2.66 mol, 453.2 g | ClC1=CC=C(C(=O)OC)C=C1 | C8H7ClO2
product | 1-(4-chlorophenyl)-2-(4-pyrimidyl)ethanone | ClC1=CC=C(C=C1)C(CC1=NC=NC=C1)=O | C12H9ClN2O
